US09126993B2
A mixture containing 2-(3-hydroxyphenyl)acetic acid (1.0 g, 6.6 mmol), (bromomethyl)cyclopropane (0.97 g, 7.2 mmol), potassium hydroxide (0.920 g, 16.4 mmol), KI (22 mg, 0.13 mmol) in EtOH (20 mL) was refluxed for 18 h. The solvent was removed in vacuo, and the residue was dissolved in 50 mL of water and extracted with ether. The aqueous layer was acidified with aqueous 1N HCl and extracted with EtOAc. The organic layers were dried (Na2SO4) and concentrated to afford a residue which was purified by silica gel chromatography (petroleum ether/EtOAc 4:1) to get 2-(3-(cyclopropylmethoxy)phenyl)acetic acid as a white solid (0.80 g, 59%).

reactant | 2-(3-hydroxyphenyl)acetic acid | 6.6 mmol, 1.0 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | (bromomethyl)cyclopropane | 7.2 mmol, 0.97 g | BrCC1CC1 | C4H7Br
reactant | potassium hydroxide | 16.4 mmol, 0.920 g | [OH-].[K+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-(3-(cyclopropylmethoxy)phenyl)acetic acid | 0.80 g, 59% | C1(CC1)COC=1C=C(C=CC1)CC(=O)O | C12H14O3
